US04689327
5 g of lithium aluminum hydride are suspended in 200 ml of tetrahydrofuran, and a solution of 31.9 g of methyl 4-(3-chloro-propylthio)benzoate in 200 ml of tetrahydrofuran is added thereto at 5° to 15° C. The mixture is stirred at the same temperature for 45 minutes. Water is added to the mixture at a temperature of below 20° C., and insoluble materials are filtered off. The filtrate is concentrated under reduced pressure to remove solvent, and the residue is distilled under reduced pressure. 24.1 g of 4-(3-chloropropylthio)benzylalcohol are obtained as an oil. Yild: 85%.

reactant | lithium aluminum hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(3-chloro-propylthio)benzoate | 31.9 g | ClCCCSC1=CC=C(C(=O)OC)C=C1 | C11H13ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(3-chloropropylthio)benzylalcohol | 24.1 g | ClCCCSC1=CC=C(CO)C=C1 | C10H13ClOS
